US07253198B2
3-Amino-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid methyl ester (D4a) (1.50 g, 6.4 mmol, 1 equiv) was dissolved in a mixture of 2N aqueous HCl solution (25 ml) and MeOH (50 ml) at 0° C. and treated portionwise with NaN3 (950 mg, 13.8 mmol, 2.2 equiv) over 20 min. H2O (50 ml) was added and the resulting mixture was heated at 90° C. for 45 min then cooled to room temperature and diluted with Et2O (300 ml). The two layers were separated and the organic phase was dried over MgSO4 and concentrated in vacuo to give 3-hydroxy-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid methyl ester (D37) (1.0 g, 67%) as a tan solid.

reactant | 3-Amino-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid methyl ester | 6.4 mmol, 1.50 g, 1 equiv | COC(C1=CC(=CC(=C1)N1C(CCC1)=O)N)=O | C12H14N2O3
reactant | NaN3 | 13.8 mmol, 950 mg, 2.2 equiv | [N-]=[N+]=[N-].[Na+]
reactant | H2O | 50 ml | O | H2O
solvent | HCl | 2N, 25 ml | Cl | ClH
solvent | MeOH | 50 ml | CO | CH4O
solvent | Et2O | 300 ml | CCOCC | C4H10O
product | 3-hydroxy-5-(2-oxo-pyrrolidin-1-yl)-benzoic acid methyl ester | 1.0 g, 67% | COC(C1=CC(=CC(=C1)N1C(CCC1)=O)O)=O | C12H13NO4
